US06492373B2
To a solution of the 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-phenacyl-1-piperazinyl)-quinoline-3-carboxylic acid (0.44 g, 1 mmole) [H. Kondo et. al., J. Med. Chem., 29, 2020 (1986)] in absolute methanol (20 ml) was added a solution of hydroxylamine hydrochloride (0.14 g, 2 mmol) and sodium bicarbonate (0.17 g, 2 mmol) in water (2 ml). The mixture was heated at reflux for 36 hr and allowed to cool to room temperature. CH2Cl2 (50 ml) was added, and the layers were separated. The organic phase was washed successively with water and brine, dried over Na2SO4, filtered and concentrated in vacuo to give a solid which was purified by flash column chromatography (silica gel, with CH2Cl2/methanol (10:1) as the eluant) and crystillization from CH2Cl2/methanol (5:1) to give 1-ethyl-6-fluoro-4-oxo-7-[4-(2-hydroxyimino-2-phenylethyl)-1-piperazinyl]-1,4-dihydroquinoline-3-carboxylic acid as an off-white amorphous solid (0.31 g, 68%). Mp: 203° C. (dec). 1H NMR (DMSO-d6) δ 1.38 (t, 3H, J=7.2), 2.64 and 3.25 (two m, 8H), 3.43 and 3.73 (two s, 2 H), 4.56 (q, 2H, J=7.2), 7.15 (d, 1H, J=7.2), 7.36-7.79 (m, 5H), 7.88 (d, 1H, J=13.2), 8.92 (s, 1H), 10.99 and 11.48 (two s, 1H), 15.07 (br s, 1H). Anal. Calcd. for C24H25FN4O4•1.5 H2O: C, 60.10; H, 5.89; N, 11.68. Found: C, 60.19; H, 5.81; N, 11.64.

reactant | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-phenacyl-1-piperazinyl)-quinoline-3-carboxylic acid | 1 mmole, 0.44 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC(=O)C1=CC=CC=C1)F)=O)C(=O)O | C24H24FN3O4
reactant | hydroxylamine hydrochloride | 2 mmol, 0.14 g | Cl.NO
reactant | sodium bicarbonate | 2 mmol, 0.17 g | C([O-])(O)=O.[Na+]
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 1-ethyl-6-fluoro-4-oxo-7-[4-(2-hydroxyimino-2-phenylethyl)-1-piperazinyl]-1,4-dihydroquinoline-3-carboxylic acid | 0.31 g, 68% | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC(C1=CC=CC=C1)=NO)F)=O)C(=O)O | C24H25FN4O4
